US06784192B2
6-Methyl-2-methoxy-3-(chloromethyl)pyridine
3.78 g of 6-methyl-2-methoxy-3-pyridinemethanol was dissolved in 60 ml of carbon tetrachloride, 6.48 g of triphenylphosphine was added thereto, and the mixture was heated under reflux for 6 hours 30 minutes. The solvent was evaporated, n-hexane was added to the residue, and the insoluble matters were filtered off. The filtrate was evaporated, and the crude product was purified by silica gel chromatography (n-hexane:ethyl acetate=100:1), to give 2.29 g of the title compound as a colorless oil.

reactant | 6-methyl-2-methoxy-3-pyridinemethanol | 3.78 g | CC1=CC=C(C(=N1)OC)CO | C8H11NO2
reactant | triphenylphosphine | 6.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Methyl-2-methoxy-3-(chloromethyl)pyridine | 2.29 g | CC1=CC=C(C(=N1)OC)CCl | C8H10ClNO
